US09126931B2
3-Bromo-9-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
3-Bromo-9-methoxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound JJ1, 1.50 g, 4.05 mmol) and pyridinium chloride (15.2 g, 32.5 eq.) were stirred at 160° C. for 12 hr under nitrogen atmosphere. After cooling, water and ethyl acetate were added and the resulting suspension was filtered. The organic layer was washed with water and saturated brine and dried over magnesium sulfate. After filtration and the concentration under reduced pressure, the resulting residues were washed with MTBE to obtain the title compound (brown solid, 1.47 g, 100%).

reactant | 3-Bromo-9-methoxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 4.05 mmol, 1.50 g | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=CC(=C4)OC)=O | C19H16BrNO2
reactant | pyridinium chloride | 15.2 g, 32.5 eq. | [Cl-].[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-9-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 1.47 g, 100% | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=CC(=C4)O)=O | C18H14BrNO2
